US07384930B2
(S)-4-chloro-7-(2-(4-(2,4-dichlorophenyl)piperidin-1-yl)-2-oxoethyl)-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
4-(2,4-Dichlorophenyl)-piperidine (32 mg, 0.0.8 mmol) and [4-chloro-9-(2,2-dimethyl-propyl)-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-(S)-cyclohepta[e]inden-7-yl]acetic acid (25 mg, 0.07 mmol) were combined in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as off-white solid in 40% yield. High resolution MS m/e (M+H)+=575.1747.

reactant | 4-(2,4-Dichlorophenyl)-piperidine | 32 mg | ClC1=C(C=CC(=C1)Cl)C1CCNCC1 | C11H13Cl2N
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-chloro-7-(2-(4-(2,4-dichlorophenyl)piperidin-1-yl)-2-oxoethyl)-9-neopentyl-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 40% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C2=C(C=C(C=C2)Cl)Cl)=O)CC(C)(C)C | C29H33Cl3N4O2
